US05117004
A mixture of 137 g (1 mol) of 4,5-dichloroimidazole, 414 g (3 mol) of K2CO3 and 1,000 ml of carbon dioxide was stirred in an autoclave at 200° C. under autogenous pressure for 10 hours. The solid output was pulverized, suspended in 2 1 of water and brought to pH 3-4 with concentrated hydrochloric acid while being cooled with ice. The resulting precipitate was filtered off and recrystallized from water to give 136 g (75%) of 4,5-dichloroimidazole-2-carboxylic acid (Compound No. 1); mp. 240° C. (dec.).

reactant | 4,5-dichloroimidazole | 1 mol, 137 g | ClC=1N=CNC1Cl | C3H2Cl2N2
reactant | K2CO3 | 3 mol, 414 g | C(=O)([O-])[O-].[K+].[K+]
reactant | carbon dioxide | 1,000 ml | C(=O)=O | CO2
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
product | 4,5-dichloroimidazole-2-carboxylic acid | 136 g, 75% | ClC=1N=C(NC1Cl)C(=O)O | C4H2Cl2N2O2
